US04147672
30.4 g of 1-hydroxymethyl-2,3,3-trimethyl-cyclohexa-1,5-diene were hydrogenated at 10°-12° in the presence of 1g of Raney-nickel in 300 ml of ethanol. 3.95 l of hydrogen were then absorbed within 2.5 h. A filtration followed by evaporation and distillation gave 28.2 g of 1-hydroxymethyl-2,3,3-trimethyl-cyclohex-6-ene. nD = 1.4862, d20 = 9.9447

reactant | 1-hydroxymethyl-2,3,3-trimethyl-cyclohexa-1,5-diene | 30.4 g | OCC1=C(C(CC=C1)(C)C)C | C10H16O
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney-nickel | [Ni] | Ni
product | 1-hydroxymethyl-2,3,3-trimethyl-cyclohex-6-ene | 28.2 g | OCC=1C(C(CCC1)(C)C)C | C10H18O
